US07820822B2
C: 1-(3-Fluorophenyl)isoquinoline
266.41 g (1.183 mol) of 1-(3-fluorophenyl)-3,4-dihydroisoquinoline were dissolved in 1500 ml of o-dichlorobenzene and admixed with 901.2 g (10.37 mol, 8.7 eq.) of manganese. The mixture was stirred at 160-170° C. for 16 h. Subsequently, the reaction solution was filtered through Celite which was rinsed with dichloromethane/ethanol (25:1). Subsequently, the solvent was distilled off under reduced pressure. 264.74 g of a crystalline solid with 99% purity were obtained, corresponding to 99% of theory.

reactant | 1-(3-fluorophenyl)-3,4-dihydroisoquinoline | 1.183 mol, 266.41 g | FC=1C=C(C=CC1)C1=NCCC2=CC=CC=C12 | C15H12FN
solvent | o-dichlorobenzene | 1500 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | manganese | 10.37 mol, 901.2 g, 8.7 eq. | [Mn] | Mn
product | 1-(3-Fluorophenyl)isoquinoline | 264.74 g | FC=1C=C(C=CC1)C1=NC=CC2=CC=CC=C12 | C15H10FN
